US08013015B2
BK1114. Trimethylsulfonium iodide (23.53 g, 115.3 mmol) was suspended in anhydrous THF (250 mL) under argon and the slurry cooled to −20° C. A pre-cooled (−20° C.) solution of n-BuLi (2.14M in hexanes, 51.2 mL, 109 mmol) was added slowly via cannulating needle and the solution stirred for 10 minutes at −20° C. A pre-cooled (−20° C.) solution 2-nonanone (5.0 mL, 28.8 mmol) was then added slowly via cannulating needle and the resultant solution was stirred at −20° C. for 1 hour. The reaction was allowed to warm to room temperature over 2 hours. Water (200 mL) was added and the mixture was extracted with Et2O (3×100 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo to afford an oily residue. This material was chromatographed on silica gel (eluting with 10% EtOAc/hexanes) to afford 3-hydroxy-3-methyl-1-decene (3.56 g, 72% yield) as a colorless oil.

reactant | Trimethylsulfonium iodide | 115.3 mmol, 23.53 g | [I-].C[S+](C)C
reactant | n-BuLi | 109 mmol, 2.14M, 51.2 mL | [Li]CCCC
reactant | 2-nonanone | 28.8 mmol, 5.0 mL | CC(CCCCCCC)=O | C9H18O
reactant | Water | 200 mL | O | H2O
reactant | THF | 250 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-3-methyl-1-decene | 3.56 g, 72% yield | OC(C=C)(CCCCCCC)C | C11H22O
